US08729068B2
A mixture of 2.00 g of 2-(trimethylsilyl)ethyl 3-(chlorosulfonyl)benzoate, 1.2 mL of cyclopropylamine, and 20 mL of pyridine was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and to the residue was added an aqueous citric acid solution, followed by extraction with ethyl acetate. The organic layer was washed with 1.0 M hydrochloric acid and saturated brine in this order, then dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain 2.12 g of 2-(trimethylsilyl)ethyl 3-(cyclopropylsulfamoyl)benzoate as a pale yellow oily substance. EI: 341

reactant | 2-(trimethylsilyl)ethyl 3-(chlorosulfonyl)benzoate | 2.00 g | ClS(=O)(=O)C=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1 | C12H17ClO4SSi
reactant | cyclopropylamine | 1.2 mL | C1(CC1)N | C3H7N
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 2-(trimethylsilyl)ethyl 3-(cyclopropylsulfamoyl)benzoate | 2.12 g | C1(CC1)NS(=O)(=O)C=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1 | C15H23NO4SSi
